US07601722B2
In an analogous manner to general procedure V, 1-[3-(bromomethyl)benzyl]-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide (0.07 g, 0.18 mmol) was treated with dimethylamine (10 mL) to provide 0.03 g (39%) of 1-(3-{[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]methyl}phenyl)-N,N-dimethylmethanamine. HRMS: calcd for C22H22FN3O2S+H+, 412.14895; found (ESI, [M+H]+), 412.1493; HPLC purity 96.3% at 210-370 nm, 7.7 min.; Xterra RP18, 3.5 u, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. Ph=3.5/ACN+MeOH) for 10 min, hold 4 min.

reactant | 1-[3-(bromomethyl)benzyl]-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide | 0.18 mmol, 0.07 g | BrCC=1C=C(CN2S(N(C3=C2C=CC=C3)C3=C(C=CC=C3)F)(=O)=O)C=CC1 | C20H16BrFN2O2S
reactant | dimethylamine | 10 mL | CNC | C2H7N
product | 1-(3-{[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]methyl}phenyl)-N,N-dimethylmethanamine | 0.03 g, 39% | FC1=C(C=CC=C1)N1S(N(C2=C1C=CC=C2)CC=2C=C(C=CC2)CN(C)C)(=O)=O | C22H22FN3O2S
